US07160906B2
DIAD (3.16 ml, 16.1 mM) was added to a stirred solution of methyl 3-nitro-5-hydroxy benzoate (2.11 g, 10.7 mM), 2-(4-methylthiazol-5-yl) ethanol (1.55 ml, 12.8 mM) and triphenylphosphine (4.21 g, 16.1 mM) in THF (50 ml) under an argon atmosphere at room temperature. After 1 hr reaction mixture concentrated in vacuo, and the residue triturated with diethyl ether to give a colourless solid (triphenylphosphine oxide). Diethyl ether conc. to give a dark brown gum, purification on silica gel (50% to 75% EtOAc/iso-hexane) gave the product contaminated with reduced DIAD and triphenylphosphine oxide (6.8 g). The crude product was dissolved/suspended in MeOH (80 ml), 2M NaOH (20 ml, 40 mM) added, heated at 65° C. for 4 hrs then cooled and concentrated. The residue was diluted with water (140 ml)/2M NaOH (40 ml), the precipitated triphenylphosphine oxide filtered, then acidified with c. HCl to pH=1–2. The precipitate was filtered, washed with water, dried under high-vacuum to give 3-nitro-5-(4-methyl-thiazol-5-yl) ethoxy] benzoic acid as a colourless solid (3.12 g, 79% over 2 steps); 1H NMR δ (d6-DMSO): 2.39 (s, 3H), 3.23 (t, 2H), 4.35 (t, 2H), 7.78 (s. 1H), 7.90 (m, 1H), 8.22 (s, 1H), 8.93 (s, 1H).

reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine oxide | 6.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | NaOH | 2M, 20 ml | [OH-].[Na+]
solvent | MeOH | 80 ml | CO | CH4O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
